US06491989B1
1,1,6,7-Tetrafluoro-5-octyloxy-2-(4-octyloxyphenyl)-1,2,3,4-tetrahydronaphthalene
From 2,3,5,5-tetrafluoro-6-(4-octyloxyphenyl)-5,6,7,8-tetrahydronaphthalen-1-ol and 1-octyl bromide by means of the Williamson ether synthesis.

reactant | 2,3,5,5-tetrafluoro-6-(4-octyloxyphenyl)-5,6,7,8-tetrahydronaphthalen-1-ol | FC1=C(C=2CCC(C(C2C=C1F)(F)F)C1=CC=C(C=C1)OCCCCCCCC)O | C24H28F4O2
reactant | 1-octyl bromide | C(CCCCCCC)Br | C8H17Br
solvent | ether | CCOCC | C4H10O
product | 1,1,6,7-Tetrafluoro-5-octyloxy-2-(4-octyloxyphenyl)-1,2,3,4-tetrahydronaphthalene | FC1(C(CCC2=C(C(=C(C=C12)F)F)OCCCCCCCC)C1=CC=C(C=C1)OCCCCCCCC)F | C32H44F4O2
